US09127003B2
Intermediate 27: tert-Butyl(1-(2-(1-ethyl-1H-pyrrolo[3,2-c]pyridin-2-yl)-1-methyl-1H-benzo[d]imidazole-5-carbonyl)piperidin-3-yl)carbamate
Sodium hydrosulfite (277.4 mg, 1.275 mmol) dissolved in water (1.5 mL) was added to a stirred solution of tert-butyl(1-(4-(methylamino)-3-nitrobenzoyl)piperidin-3-yl)carbamate (143.2 mg, 0.378 mmol) and 1-ethyl-1H-pyrrolo[3,2-c]pyridine-2-carbaldehyde (67.6 mg, 0.388 mmol) in ethanol (3.5 mL) at room temperature in a 5 ml microwave vial. The reaction mixture was then heated in a microwave for 5 hr at 100° C. Methanol was added to the reaction mixture and dried using Na2SO4. The reaction mixture was then filtered under gravity through a hydrophobic frit and the eluent collected and concentrated under vacuum. The crude product was dissolved in a minimum volume of DCM and purified using SP4 on a 25 g SNAP silica cartridge. The cartridge was eluted using a gradient of 0-100% 20% methanol in DCM/DCM. Appropriate fractions were collected and concentrated under vacuum to give the title compound as a yellow oil (76 mg).

reactant | Sodium hydrosulfite | 1.275 mmol, 277.4 mg | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
reactant | tert-butyl(1-(4-(methylamino)-3-nitrobenzoyl)piperidin-3-yl)carbamate | 0.378 mmol, 143.2 mg | C(C)(C)(C)OC(NC1CN(CCC1)C(C1=CC(=C(C=C1)NC)[N+](=O)[O-])=O)=O | C18H26N4O5
reactant | 1-ethyl-1H-pyrrolo[3,2-c]pyridine-2-carbaldehyde | 0.388 mmol, 67.6 mg | C(C)N1C(=CC=2C=NC=CC21)C=O | C10H10N2O
reactant | Methanol | CO | CH4O
solvent | water | 1.5 mL | O | H2O
solvent | ethanol | 3.5 mL | C(C)O | C2H6O
product | tert-Butyl(1-(2-(1-ethyl-1H-pyrrolo[3,2-c]pyridin-2-yl)-1-methyl-1H-benzo[d]imidazole-5-carbonyl)piperidin-3-yl)carbamate | 76 mg | C(C)(C)(C)OC(NC1CN(CCC1)C(=O)C1=CC2=C(N(C(=N2)C2=CC=3C=NC=CC3N2CC)C)C=C1)=O | C28H34N6O3
